US03969510
Preparation of 2-methylbenzoic cyclohexylamide
9.9 PARTS OF CYCLOHEXYLAMINE IS DISSOLVED IN 100 PARTS OF BENZENE AND THE MIXTURE IS REACTED WITH 15.5 PARTS OF 2-METHYLBENZOYL CHLORIDE IN THE PRESENCE OF 12 PARTS OF TRIETHYLAMINE AT 10°C. The whole is stirred for 3 hours at 60°C and then cooled; the precipitated triethylamine chloride is filtered, the filtrate is concentrated under vacuum and the residue is recrystallized from a mixture of methanol and water.

reactant | CYCLOHEXYLAMINE | C1(CCCCC1)N | C6H13N
reactant | 2-METHYLBENZOYL CHLORIDE | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | TRIETHYLAMINE | C(C)N(CC)CC | C6H15N
solvent | BENZENE | C1=CC=CC=C1 | C6H6
product | 2-methylbenzoic cyclohexylamide | C1(CCCCC1)NC(C1=C(C=CC=C1)C)=O | C14H19NO
